US05420298
Using an analogous procedure to that described in Example 10, 4'-mercaptoacetophenone was reacted with 1-ethoxycarbonyl-3-(3-iodophenyl)-3-methoxypyrrolidine to give 3-[3-(4-acetylphenylthio)phenyl]-1-ethoxycarbonyl-3-methoxypyrrolidine as a gum in 24% yield.

reactant | 4'-mercaptoacetophenone | SC1=CC=C(C=C1)C(C)=O | C8H8OS
reactant | 1-ethoxycarbonyl-3-(3-iodophenyl)-3-methoxypyrrolidine | C(C)OC(=O)N1CC(CC1)(OC)C1=CC(=CC=C1)I | C14H18INO3
product | 3-[3-(4-acetylphenylthio)phenyl]-1-ethoxycarbonyl-3-methoxypyrrolidine | 24% yield | C(C)(=O)C1=CC=C(C=C1)SC=1C=C(C=CC1)C1(CN(CC1)C(=O)OCC)OC | C22H25NO4S
